2168-01-22 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HD early in afternoon.
   - IR procedure at 16:00 interupted HD
   - IR drained thick purulent fluid and placed drain
   - Hypoglycemic after IR procedure to 9 by fingerstick on returning to
   the floor. Pushed 25 g dextrose with recovery. Given juice.
   - Hepatology: Do not use G-tube. Continue antibiotic Rx. [**Month (only) 11**] have
   previously underestimated degree of liver failure. Could be stage IV.
   - Somnolent most of the day.
   - Occasional PVCs on telemetry.
   - WBC climbing - 23.9 > 38.4 > 39.2. Suspicion for C. diff. given
   diarrhea, also other infections: sepsis, abdominal wall. HD stable
   overnight and afebrile.
   - Some loose stool in the evening - partly dried on mat and not send
   for C. diff.
   - Started on empiric enteral vancomycin given no stool sent and WBC
   climbing.
   - Refused dailysis this a.m. (Renal would like to have done this this
   morning because she really had very little fluid off last session).
   - Started stress dose steroids (hydrocortisone 25 mg Q8H IV).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-1-21**] 11:00 AM
   Vancomycin - [**2168-1-21**] 04:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2168-1-21**] 05:30 PM
   Dextrose 50% - [**2168-1-21**] 06:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-22**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 94 (80 - 99) bpm
   BP: 120/64(78) {86/46(56) - 151/86(100)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    470 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    305 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                    165 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   471 K/uL
   9.7 g/dL
   83 mg/dL
   2.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   43 mg/dL
   94 mEq/L
   139 mEq/L
   30.4 %
   39.2 K/uL
        [image002.jpg]
                             [**2168-1-21**]  10:10 AM
                             [**2168-1-21**]  02:56 PM
                             [**2168-1-21**]  10:25 PM
                             [**2168-1-22**]  03:02 AM
   WBC
   26.7
   23.9
   38.4
   39.2
   Hct
   30.8
   29.0
   32.2
   30.4
   Plt
   482
   428
   441
   471
   Cr
   4.3
   2.7
   2.8
   2.9
   Glucose
   373
   73
   231
   83
   Other labs: PT / PTT / INR:15.2/27.9/1.3, ALT / AST:32/109, Alk Phos /
   T Bili:400/5.1, Amylase / Lipase:/18, Differential-Neuts:86.5 %,
   Lymph:10.0 %, Mono:2.8 %, Eos:0.3 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:226 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Imaging: CT IR Procedure: Pending
   Microbiology: [**2168-1-21**] 5:30 pm ABSCESS      LEFT ABDOMEN ABSCESS.
      GRAM STAIN (Final [**2168-1-21**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
      WOUND CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   Blood Cultures: Pending
   Assessment and Plan
   48F with Hep B, DM, malnutrition s/p recent PEG placement, presenting
   with abdominal pain and malaise, found to have nonketotic hyperglycemia
   and concern for abdominal wall abscess.
   .
   # Abdominal wall ?abscess.  In setting of recent PEG placement [**1-6**] by
   GI.  Mutiple gas pockets concerning for abscess.  Appears to be all
   within anterior abdominal wall; no evidence of collection
   intraperitoneally.  Radiology has reviewed; willing to attempt
   drainage.  Awaiting formal GI and surgical input (if GI has opinion on
   [**Doctor First Name **] vs. IR management).
   - NPO and nothing through PEG tube.
   - GI made aware and will see patient.
   - Appreciate gen [**Doctor First Name **] input.
   - Decision re: IR/rads drainage vs. surgical drainage after discussion
   with all teams.
   - Vanco/zosyn for antibiotics.  Further tailoring antibiotics based on
   abscess drainage results.
   - Low threshold for stress dose steroids given prolonged steroid
   course.
   - Glucose control in setting of infection as below.
   .
   # Hyperglycemia/DM.  Likely due to severity of infection and
   inflammatory state.  [**Month (only) 11**] also be contribution from now improved
   nutrition with PEG tube.  Outpatient insulin doses unclear.  [**Name2 (NI) 83**] current
   evidence of ketones in serum or urine currently, though has had anion
   gap. A
   - Check serum ketones here (and UA if voids again).
   - Obtain home doses of insulin from family and/or pharmacy.
   - Insulin gtt likely for today given profound hyperglycemia and desire
   to acheive relatively good glucose control with current infection.
   Consider SQ dose later today if control improves.
   - Monitor K closely with insulin treatment (ESRD but may be K depleted
   from urinary losses, as does produce urine).
   - Hold off on further fluids for now (not volume depleted by exam and
   somewhat protected from usual osmotic diuresis due to ESRD) but low
   threshold to start.
   .
   # UTI. Positive UA at OSH.
   - Resend urine here.
   - Call OSH tomorrow for UCx results.
   - Coverage with vanc/zosyn.
   .
   # Lethargy.  Improving as day goes on.  At baseline lives at home but
   requires signficant help from daughter and [**Name (NI) **]; does not due own tube
   feeds.  Concern for ?depression with last admit.  Also was overnight
   admit, may just be sleep deprived.  Nothing focal (other than chronic
   deficits) on neuro exam.  Most likely systemic effects of infection;
   much less likely primary CNS insult (stroke, bleed, meningitis).
   - Continue to monitor.
   - Consider head CT, LP in light of leukocytosis, but again other
   etiologies more likely.
   .
   # Anion gap metabolic acidosis.  Elevated bicarb at OSH on VBG -
   ?chronic CO2 retention.  Bicarb now 28 with AG 16 (worse than looks
   with likely low albumin).  Renal failure vs. lactate vs. ketones
   (though no evidence of ketones thus far).
   - Check serum acetone.
   - Check lactate.
   .
   # ESRD.  Usual HD M/W/F at [**Hospital1 97**] via R tunnelled line.
   - Renal aware; likely no acute indication for HD today provided K stays
   low.
   .
   # Anemia.  Concern for GIB at OSH.  Stools guiaiac pos but brown;
   gastrocult positive from PEG tube.  Had 4 point Hct drop compared to
   last known values, but with appropriate bump to OSH transfusion
   - Defer to GI re: decisions to potentially scope.
   .
   # Chronic hep B infection/cholangiopathy.  Bili slightly up above
   baseline.
   - Hold entecavir/tenofovir given reluctancy to use PEG right now.
   - Obtain accurate home med list.
   .
   # Leukocytosis.  Concern for infection/abscess as above.
   - Treatment of abscess as above.
   - Consider flagyl or rule out C.diff (though diarrhea longstanding).
   .
   # FEN: No IVF, replete electrolytes, NPO and nothing thru PEG
   # Prophylaxis: Hold SQH for now (monitor PTT if starting)
   # Access: peripherals, HD line
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement, off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-21**] 10:10 AM
   22 Gauge - [**2168-1-21**] 10:51 AM
   Dialysis Catheter - [**2168-1-21**] 10:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-01-22 09:33:00 Physician Attending Progress Note
Chief Complaint: Abdominal wall infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   JP placed in abdominal wall pocket by IR yesterday
   Episode of hypoglycemia to 9 post-proccedure --> blood sugar and MS
   recovered with D50
   Pt refused HD this AM
   24 Hour Events:
 DIALYSIS CATHETER - START [**2168-1-21**] 10:53 AM
 WOUND CULTURE - At [**2168-1-21**] 06:00 PM
   in CT
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-1-21**] 11:00 AM
   Vancomycin - [**2168-1-21**] 04:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2168-1-21**] 05:30 PM
   Dextrose 50% - [**2168-1-21**] 06:35 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: PEG tube
   Gastrointestinal: Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-1-22**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 91 (80 - 99) bpm
   BP: 112/69(78) {86/46(56) - 151/86(100)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    470 mL
                                                                     91 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                    305 mL
                                                                  1,100 mL
   Urine:
   NG:
                                                                    100 mL
                                                                  1,100 mL
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                    165 mL
                                                                 -1,009 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Tender: L > R, no rebound
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.7 g/dL
   471 K/uL
   83 mg/dL
   2.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   43 mg/dL
   94 mEq/L
   139 mEq/L
   30.4 %
   39.2 K/uL
        [image002.jpg]
                             [**2168-1-21**]  10:10 AM
                             [**2168-1-21**]  02:56 PM
                             [**2168-1-21**]  10:25 PM
                             [**2168-1-22**]  03:02 AM
   WBC
   26.7
   23.9
   38.4
   39.2
   Hct
   30.8
   29.0
   32.2
   30.4
   Plt
   482
   428
   441
   471
   Cr
   4.3
   2.7
   2.8
   2.9
   Glucose
   373
   73
   231
   83
   Other labs: PT / PTT / INR:15.2/27.9/1.3, ALT / AST:32/109, Alk Phos /
   T Bili:400/5.1, Amylase / Lipase:/18, Differential-Neuts:86.5 %,
   Lymph:10.0 %, Mono:2.8 %, Eos:0.3 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:226 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Microbiology: JP drain: gram stain - 4+ gram pos rods, 4+ GNRs, 3+
   yeast
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 WOUND INFECTION
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED HEALTH MAINTENANCE
 KNOWLEDGE DEFICIT
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   48 yo woman with chronic HBV, ESRD, recent admission with PEG placement
   for malnutrition
 transferred from [**Hospital3 **] for suspected infection
   and fluid collection associated with PEG.  Now s/p drainage with
   evidence of polymicrobial infection by initial gram stain.
   1. Adominal wall infection: WBC remains elevated but pt much better
   appearing clinically
   -s/p IR drainage
   -will need gastrograffin study - will touch base with GI as to timing
   -Will not cover yeast for now and await cultures
   -NPO for now
   -Cont vanc/Zosyn
   -Check C.diff  --> start iv flagyl (po vanc initially ordered)
   -D/C stress dose steroids --> change to hyocort equivalent of pred 5mg
   2. ESRD: HD per renal --> pt refused this AM.
   3. Hyperglycemia: resolved, with episode of hypoglycemia last PM.
   Restart sq insulin, insulin gtt off
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-21**] 10:10 AM
   22 Gauge - [**2168-1-21**] 10:51 AM
   Dialysis Catheter - [**2168-1-21**] 10:53 AM
   Prophylaxis:
   DVT: (ambulating)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor

2168-01-23 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-1-23**] 06:21 AM
 STOOL CULTURE - At [**2168-1-23**] 06:21 AM
   - Discontinued stress dose steroids and started Hydrocort 20mg Daily
   - HIV consent attained, test drawn
   - Changed from PO Vancomycin to IV Flagyl.
   - GI Recs: Keep NPO, consider TPN.
   - Renal Recs: HD today.
   - Discussed Yeast in Abscess with ID. Most likely from GI Tract. Would
   cover with Micafungin if patient clinically worsens or spikes on
   Vanc/Zosyn.
   - PICC to be placed when patients white blood cell count decreases.
   - Ammonia 24. Normal.
   - Vancomycin level High, dose held. Random level ordered for tomorrow.
   - Little more abdominal pain this evening. Belly soft. Good Bowel
   sounds. Little more tenderness to palpation over left lower quadrant.
   Moving bowels.
   - Yeast on blood cultures. Micafungin started. Will need dialated eye
   exam with optho.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-1-21**] 04:00 PM
   Micafungin - [**2168-1-22**] 10:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-1-23**] 04:00 AM
   Metronidazole - [**2168-1-23**] 05:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2168-1-22**] 08:15 PM
   Pantoprazole (Protonix) - [**2168-1-23**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-23**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 85 (84 - 99) bpm
   BP: 133/63(79) {91/60(74) - 152/82(94)} mmHg
   RR: 6 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    740 mL
                                                                    270 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                      7 mL
   Urine:
   NG:
                                                                  1,200 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                      7 mL
   Balance:
                                                                   -520 mL
                                                                    263 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General: Lethargic, falls asleep easily but very easily arousable.
   Speech slowed and quiet but appropriate.
   HEENT: No obvious facial droop.  PERRL 3.5->3, EOMI.  Sclera mildly
   icteric, MMM, oropharynx clear.
   Neck: supple, JVD not elevated, no LAD, good ROM.
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi;
   slight decrease at right base.
   CV: Regular rate and rhythm, normal S1 + S2, loud holosystolic murmur
   heard throughout precordium.
   Abdomen:  PEG site in LUQ.  Small amount of dried blood at exit site
   but no purulent drainage noted.  Mostly clear bilious fluid from PEG.
   No surrounding erythema.  + Moderate TTP in L side of abdomen with
   guarding, no clear rebound.  + TTP in R abdomen as well but seems to be
   bothering her more in L side with R sided palpation.  +tender with
   shaking bed.  Bowel sounds present.
   Ext: warm, well perfused, [**2-3**]+ edema equal bilaterally.  Tunnelled R HD
   line looks benign.  Stage II decub on buttocks.
   Neuro: Mental status as above.  CN II-XII intact.  Strength 5/5 in all
   RUE and RLE muscle groups.  4-/5 at L plantar and dorsiflexors.  [**5-4**]
   intrinsic hand muscles. 4+/5 in elbow flexors and extensors.
   Labs / Radiology
   390 K/uL
   8.2 g/dL
   83 mg/dL
   2.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   43 mg/dL
   94 mEq/L
   139 mEq/L
   27.5 %
   29.1 K/uL
        [image002.jpg]
                             [**2168-1-21**]  10:10 AM
                             [**2168-1-21**]  02:56 PM
                             [**2168-1-21**]  10:25 PM
                             [**2168-1-22**]  03:02 AM
                             [**2168-1-23**]  05:56 AM
   WBC
   26.7
   23.9
   38.4
   39.2
   29.1
   Hct
   30.8
   29.0
   32.2
   30.4
   27.5
   Plt
   482
   428
   441
   471
   390
   Cr
   4.3
   2.7
   2.8
   2.9
   Glucose
   373
   73
   231
   83
   Other labs: PT / PTT / INR:15.2/27.9/1.3, ALT / AST:32/109, Alk Phos /
   T Bili:400/5.1, Amylase / Lipase:/18, Differential-Neuts:86.5 %,
   Lymph:10.0 %, Mono:2.8 %, Eos:0.3 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:226 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   [**1-23**] No new CXR
   [**1-23**] Blood culture
 pending
   [**1-22**] Stool
 negative for c. diff
[**2168-1-21**] 5:30 pm ABSCESS      LEFT ABDOMEN ABSCESS.
   GRAM STAIN (Final [**2168-1-21**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
   [**1-21**] Blood culture 1 of 2
 no growth to date
[**2168-1-21**] 10:19 am BLOOD CULTURE      Source: Venipuncture 1 OF 2.
   Blood Culture, Routine (Preliminary):
      YEAST.
   Anaerobic Bottle Gram Stain (Final [**2168-1-22**]):
      YEAST(S).
   Assessment and Plan
   48F with Hep B, DM, malnutrition s/p recent PEG placement, presenting
   with abdominal pain and malaise, found to have nonketotic hyperglycemia
   and concern for abdominal wall abscess.
   .
   # Abdominal wall Abscess.  IR drained purulent fluid. Gram Stain with
   GPR, GNR, Yeast. Unclear if PEG tube integrity still intact. Patient
   improving clinically despite increasing white blood cell count.
   Hemodynamically stable. Discussed treating yeast with ID they recommend
   Micafungin if patient clinically decompensates, however may be from GI
   tract.
   - NPO and nothing through PEG tube currently.
   - FU GI Recs
   - Follow abdominal exam/JP drain input
   - [**Month (only) 11**] need gastrograffin study at some point to evaluate PEG tube.
   - Vanco/zosyn/micofungin for antibiotics.  Further tailoring
   antibiotics based on abscess drainage results.
   - Decrease stress dose steroids to normal level.
   - Glucose control in setting of infection as below.
   .
   # Fungemia. Likely from GI tract as source. Continue treatment as
   above.
   - Consult ID for recommendations
   - Consult ophthalmology for dilated eye exam
   - Will need to pull dialysis line
   - Follow up renal regarding line options
   .
   # Leukocytosis.  Concern for infection/abscess as above. White count
   increasing.
   - Treatment of abscess as above.
   - IV flagyl for empiric treatment of C. Diff.
   .
   # DM.  Pt on Insulin gtt early yesterday. Hypoglycemic after IR
   procedure. Subcutaneous insulin restarted. AG closed.
   - Glargine at half dose and SSI, fingerstick Q6hrs
   - Nutrition as soon as possible, discuss with GI
   .
   # UTI. No Urine
   - Resend urine
   - Coverage with vanc/zosyn.
   .
   # Lethargy.  Improved. Alert and Oriented x 3. Minimal asterixis on
   exam.
   - Continue to monitor.
   - When taking PO start Lactulose.
   .
   # ESRD.  Usual HD M/W/F at [**Hospital1 97**] via R tunnelled line.
   - FU renal recs
   - Dialysis today.
   .
   # Anemia.  Concern for GIB at OSH.  Stools Guaiac positive but brown.
   HCT stable.
   - Continue to Guaiac stools
   - Defer to GI re: decisions to potentially scope.
   .
   # Chronic hep B infection/cholangiopathy.  Bili slightly up above
   baseline.
   - Hold entecavir/tenofovir given reluctancy to use PEG right now.
   - Obtain accurate home med list.
   .
   # FEN: No IVF, replete electrolytes, NPO and nothing thru PEG; follow
   up GI regarding diet
   # Prophylaxis: Hold SQH for now (monitor PTT if starting)
   # Access: peripherals, HD line
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement, off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-1-21**] 10:10 AM
   22 Gauge - [**2168-1-21**] 10:51 AM
   Dialysis Catheter - [**2168-1-21**] 10:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-01-23 11:35:00 Physician Attending Progress Note
Chief Complaint: Recent PEG tube with abdom pain/malaise with
   Non-ketotic hyperosmolar coma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-1-23**] 06:21 AM
 STOOL CULTURE - At [**2168-1-23**] 06:21 AM
   Started on Micafungin
   D/C stress dose steroids and restarted on baseline hydrocort
   Hemodialysis yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-1-21**] 04:00 PM
   Micafungin - [**2168-1-22**] 10:14 PM
   Metronidazole - [**2168-1-23**] 05:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-1-23**] 09:01 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2168-1-22**] 08:15 PM
   Pantoprazole (Protonix) - [**2168-1-23**] 12:09 AM
   Other medications:
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-23**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 83 (83 - 96) bpm
   BP: 134/65(81) {126/60(76) - 152/82(94)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    740 mL
                                                                    414 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                      7 mL
   Urine:
   NG:
                                                                  1,200 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                      7 mL
   Balance:
                                                                   -520 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Lungs
 clear
   Cor s1s2 nl, no MRTG
   Peripheral Vascular: (Right radial pulse: nl), (Left radial pulse: nl),
   (Right DP pulse: nl), (Left DP pulse: nl)
   Abdominal: Soft, Bowel sounds present
   Skin:  PEG in place with JP drain
   Neurologic: Responds to: commands, oriented X3, Movement: purposeful,
   Tone: normal
   Labs / Radiology
   8.2 g/dL
   390 K/uL
   116 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   14 mg/dL
   100 mEq/L
   141 mEq/L
   27.5 %
   29.1 K/uL
        [image002.jpg]
                             [**2168-1-21**]  10:10 AM
                             [**2168-1-21**]  02:56 PM
                             [**2168-1-21**]  10:25 PM
                             [**2168-1-22**]  03:02 AM
                             [**2168-1-23**]  05:56 AM
   WBC
   26.7
   23.9
   38.4
   39.2
   29.1
   Hct
   30.8
   29.0
   32.2
   30.4
   27.5
   Plt
   482
   428
   441
   471
   390
   Cr
   4.3
   2.7
   2.8
   2.9
   1.6
   Glucose
   373
   73
   231
   83
   116
   Other labs: PT / PTT / INR:18.9/31.7/1.7, ALT / AST:26/85, Alk Phos / T
   Bili:354/4.0, Amylase / Lipase:/12, Differential-Neuts:86.5 %,
   Lymph:10.0 %, Mono:2.8 %, Eos:0.3 %, Lactic Acid:2.8 mmol/L,
   Albumin:2.2 g/dL, LDH:168 IU/L, Ca++:6.8 mg/dL, Mg++:1.4 mg/dL, PO4:3.0
   mg/dL
   Imaging: No new CXR
   Microbiology: No new data
   Repeat BC's pending
   Assessment and Plan
   48F with Hep B, DM, malnutrition s/p recent PEG placement, presenting
   with abdominal pain and malaise, found to have nonketotic hyperglycemia
   and concern for abdominal wall abscess.
   .
   # Abdominal wall Abscess.  IR drained purulent fluid. Gram Stain with
   GPR, GNR, Yeast. Unclear if PEG tube integrity still intact. Patient
   improving clinically despite increasing white blood cell count.
   Hemodynamically stable. Discussed treating yeast with ID they recommend
   Micafungin if patient clinically decompensates, however may be from GI
   tract.
   - NPO and nothing through PEG tube currently.
   - FU GI Recs
   - Follow abdominal exam/JP drain input
   - [**Month (only) 11**] need gastrograffin study at some point to evaluate PEG tube.
   - Vanco/zosyn/micofungin for antibiotics.  Further tailoring
   antibiotics based on abscess drainage results.
   - Decrease stress dose steroids to normal level.
   - Glucose control in setting of infection as below.
   .
   # Fungemia. Likely from GI tract as source. Continue treatment as
   above.
   .
   # Leukocytosis.  Concern for infection/abscess as above. White count
   increasing.
   - Treatment of abscess as above.
   - IV flagyl for empiric treatment of C. Diff.
   .
   # DM.  Pt on Insulin gtt early yesterday. Hypoglycemic after IR
   procedure. Subcutaneous insulin restarted. AG closed.
   - Glargine at half dose and SSI, fingerstick Q6hrs
   - Nutrition as soon as possible, discuss with GI
   .
   # UTI. No Urine
   - Resend urine
   - Coverage with vanc/zosyn.
   .
   # Lethargy.  Improved. Alert and Oriented x 3. Minimal asterixis on
   exam.
   - Continue to monitor.
   - When taking PO start Lactulose.
   .
   # ESRD.  Usual HD M/W/F at [**Hospital1 97**] via R tunnelled line.
   - FU renal recs
   - Dialysis today.
   .
   # Anemia.  Concern for GIB at OSH.  Stools Guaiac positive but brown.
   HCT stable.
   - Continue to Guaiac stools
   - Defer to GI re: decisions to potentially scope.
   .
   # Chronic hep B infection/cholangiopathy.  Bili slightly up above
   baseline.
   - Hold entecavir/tenofovir given reluctancy to use PEG right now.
   - Obtain accurate home med list.
   .
   # FEN: No IVF, replete electrolytes, NPO and nothing thru PEG
   # Prophylaxis: Hold SQH for now (monitor PTT if starting)
   # Access: peripherals, HD line
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement, off insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2168-1-21**] 10:10 AM
   22 Gauge - [**2168-1-21**] 10:51 AM
   Dialysis Catheter - [**2168-1-21**] 10:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes